US08497264B2
To a solution of 7-bromo-3-chloro-1-fluorospiro[chromeno[2,3-c]pyridine-5,2′-oxirane] (23.5 g, 68.6 mmol) in DMF (600 mL) was added azidotrimethylsilane (54.6 mL, 412 mmol). The reaction mixture was stirred at RT for 6 hours. Additional azidotrimethylsilane (54.6 mL, 412 mmol) was added and the reaction was stirred at RT for 18 hours. The reaction mixture was diluted with EtOAc and water. The organic layer was separated, washed sequentially with a saturated aqueous LiCl solution and brine before drying over sodium sulfate. The solution was concentrated under reduced pressure to afford (5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol (26.12 g, 67.7 mmol, 99% yield).

reactant | 7-bromo-3-chloro-1-fluorospiro[chromeno[2,3-c]pyridine-5,2′-oxirane] | 68.6 mmol, 23.5 g | BrC=1C=C2C(=CC1)OC=1C(=NC(=CC1C21OC1)Cl)F | C13H6BrClFNO2
reactant | azidotrimethylsilane | 412 mmol, 54.6 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | azidotrimethylsilane | 412 mmol, 54.6 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol | 67.7 mmol, 26.12 g, 99% yield | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CO | C13H7BrClFN4O2
